US08003662B2
Step D: Preparation of 2-benzyl-5-(4-(benzyloxy)-3-fluorophenyl)pyrimidin-4(3H)-one:
A solution of 2-benzyl-5-bromopyrimidin-4(3H)-one (0.300 g, 1.13 mmol), 4-(benzyloxy)-3-fluorophenylboronic acid (0.334 g, 1.36 mmol), Pd(PPh3)4 (0.065 g, 0.057 mmol) and lithium chloride (0.240 g, 5.66 mmol) in dioxane (3 mL) and 2 M aq Na2CO3 (0.3 mL) was stirred at 100° C. for 18 hours. The reaction mixture was partitioned between EtOAc and H2O. The phases were separated, and the aqueous phase was re-extracted with EtOAc (3×). The combined organic layers were dried (Na2SO4), filtered and concentrated to yield a crude dark yellow solid. Purification of the crude product was achieved by trituration with dichloromethane. The resulting solid was filtered, washed with dichloromethane, collected and dried under vacuum. The filtrate was concentrated and the trituration procedure was repeated (2×) with EtOAc. The solids were combined to yield the desired product (0.284 g, 65%) as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 12.93 (br s, 1H), 8.13 (s, 1H), 7.66 (dd, J=2.3, 13.3 Hz, 1H), 7.53-7.22 (s, 12H), 5.21 (s, 2H), 3.90 (s, 2H). LRMS (APCI pos) m/e 387 (M+1).

reactant | 2-benzyl-5-bromopyrimidin-4(3H)-one | 1.13 mmol, 0.300 g | C(C1=CC=CC=C1)C1=NC=C(C(N1)=O)Br | C11H9BrN2O
reactant | 4-(benzyloxy)-3-fluorophenylboronic acid | 1.36 mmol, 0.334 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)B(O)O)F | C13H12BFO3
reactant | lithium chloride | 5.66 mmol, 0.240 g | [Cl-].[Li+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 2 M, 0.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.057 mmol, 0.065 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-benzyl-5-(4-(benzyloxy)-3-fluorophenyl)pyrimidin-4(3H)-one | 0.284 g, 65% | C(C1=CC=CC=C1)C1=NC=C(C(N1)=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)F | C24H19FN2O2
